US08791123B2
(R)—N-cyclopropyl-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 1 using (R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation K) and cyclopropanamine. The combined organic extracts were concentrated and the residue was purified by reverse phase HPLC (0-70% acetonitrile/water) to provide the title compound (19 mg, 57% yield). MS (apci) m/z=397.0 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C(=NC1)OC)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H16FN5O3
reactant | cyclopropanamine | C1(CC1)N | C3H7N
product | (R)—N-cyclopropyl-5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 19 mg, 57% yield | C1(CC1)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C=2C(=NC=C(C2)F)OC | C20H21FN6O2
